US07790712B2
Synthesis of 9-hydroxyimino-6,7,8,9-tetrahydro-pyrido[1,2-a]indole-3-carboxylic acid pyridin-3-ylamide
9-Oxo-6,7,8,9-tetrahydro-pyrido[1,2-a]indole-3-carboxylic acid pyridin-3-ylamide (150 mg, 0.491 mmol), hydroxylamine hydrochloride (1.50 g, 21.6 mmol), and pyridine (3 mL) were combined in MeOH (40 mL) and heated to 60 □C for 20 h. The reaction was cooled and diluted with water (200 mL). The resulting precipitate was filtered, washed with water, then hexanes, and dried in a vacuum oven to give the title compound (122 mg, 78%) as an analytically pure mixture of oxime regioisomers (2:1).

reactant | 9-Oxo-6,7,8,9-tetrahydro-pyrido[1,2-a]indole-3-carboxylic acid pyridin-3-ylamide | 0.491 mmol, 150 mg | N1=CC(=CC=C1)NC(=O)C1=CC=C2C=C3N(C2=C1)CCCC3=O | C18H15N3O2
reactant | hydroxylamine hydrochloride | 21.6 mmol, 1.50 g | Cl.NO
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | MeOH | 40 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
product | 9-hydroxyimino-6,7,8,9-tetrahydro-pyrido[1,2-a]indole-3-carboxylic acid pyridin-3-ylamide | 122 mg, 78% | N1=CC(=CC=C1)NC(=O)C1=CC=C2C=C3N(C2=C1)CCCC3=NO | C18H16N4O2
